US05684034
A solution of 100 mg (0.245 mmol) of 2-[[3-(2-amino-2-oxoethyl)-2-methyl-1-(phenylmethyl)-1H-indol-4-yl]oxy]acetic acid methyl ester and 2 mL of 1N NaOH in 5 mL of EtOH was stirred for 2.0 hours, diluted with water and extracted with EtOAc. The aqueous layer was made acidic to pH 6 with 1N HCl and extracted with EtOAc, the EtOAc dried (MgSO4), and concentrated at reduced pressure. The residue was crystallized from MeOH to give 54 mg (57% yield) of 2-[[3-(2-amino-2-oxoethyl)-2-methyl-1-(phenylmethyl)-1H-indol-4-yl]oxy]acetic acid, mp, 225°-227° C.

reactant | 2-[[3-(2-amino-2-oxoethyl)-2-methyl-1-(phenylmethyl)-1H-indol-4-yl]oxy]acetic acid methyl ester | 0.245 mmol, 100 mg | COC(COC1=C2C(=C(N(C2=CC=C1)CC1=CC=CC=C1)C)CC(=O)N)=O | C21H22N2O4
reactant | NaOH | 1N, 2 mL | [OH-].[Na+]
solvent | EtOH | 5 mL | CCO | C2H6O
solvent | water | O | H2O
product | 2-[[3-(2-amino-2-oxoethyl)-2-methyl-1-(phenylmethyl)-1H-indol-4-yl]oxy]acetic acid | 54 mg, 57% yield | NC(CC1=C(N(C2=CC=CC(=C12)OCC(=O)O)CC1=CC=CC=C1)C)=O | C20H20N2O4
